US08623896B2
To a suspension 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid (Example I5) (10 g) in toluene (150 ml) and dimethylformamide (0.1 ml) at ambient temperature was added dropwise thionyl chloride (3.5 ml). The reaction mixture was stirred at 50° C. for 2 hours. The solution was then cooled to 0° C. and methanol (2 ml) added slowly. The reaction mixture was stirred at ambient temperature for 1 hour. The reaction mixture was concentrated and aqueous sodium hydrogen carbonate (saturated) (50 ml) added to the residue. The mixture was extracted with ethyl acetate (3×100 ml). The combined organic extracts were dried over sodium sulfate and concentrated to afford 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid methyl ester as a yellow solid (11.5 g). 1H-NMR (CDCl3, 400 MHz): 7.95 (d, 1H), 7.55 (m, 4H), 7.45 (s, 1H), 4.10 (d, 1H), 3.90 (s, 3H), 3.70 (d, 1H), 2.60 (s, 3H) ppm.

reactant | 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid | 10 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)O)C=C1)C)C(F)(F)F | C18H12Cl2F3NO3
reactant | thionyl chloride | 3.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 2 ml | CO | CH4O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
product | 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid methyl ester | 11.5 g | COC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C19H14Cl2F3NO3
